US07067658B2
(R)-(4-Chloro-3-nitropyridin-2-yl)-(1-methoxymethyl-propyl)-amine (2.09 g, 8.05 mmol) was dissolved in ether (30 mL) and cooled to 0° C. Next, SnCl2.2H20 (18.1 g, 80.5 mmol) in conc. HCl (10 mL) was added, dropwise at 0° C. and stirred at room temperature for 4 h. The reaction mixture was poured over ice water containing 50% NaOH solution (20 mL) and extracted with EtOAc (2×). The aqueous layer was filtered through celite, then extracted with EtOAc (2×). The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was purified by column chromatography (20% EtOAc/Hex) to yield 0.24 g, 13% of (R)-4-chloro-N2-(1-methoxymethyl-propyl)-pyridine-2,3-diamine: MS (AP) m/z 229.71 [(M+H)+, 100].

reactant | (R)-(4-Chloro-3-nitropyridin-2-yl)-(1-methoxymethyl-propyl)-amine | 8.05 mmol, 2.09 g | ClC1=C(C(=NC=C1)N[C@H](CC)COC)[N+](=O)[O-] | C10H14ClN3O3
reactant | SnCl2 | Cl[Sn]Cl
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | HCl | 10 mL | Cl | ClH
product | (R)-4-chloro-N2-(1-methoxymethyl-propyl)-pyridine-2,3-diamine | 0.24 g, 13% | ClC1=C(C(=NC=C1)N[C@H](CC)COC)N | C10H16ClN3O
